US20010006969A1
4-Allylamino-2-(trans-2-butenylamino)-6-nitroquinazoline
150 mg (0.57 mmol) of 4-allylamino-2-chloro-6-nitroquinazoline was dissolved in 2 ml of acetonitrile, and 305 mg (2.83 mmol) of trans-2-butenylamine hydrochloride and 0.39 ml (2.83 mmol) of triethylamine were added thereto, followed by stirring at 50° C. for 6 hours. To the reaction solution was water added, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 138 mg (yield: 80.9%) of the title compound.

reactant | 4-allylamino-2-chloro-6-nitroquinazoline | 0.57 mmol, 150 mg | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])Cl | C11H9ClN4O2
reactant | trans-2-butenylamine hydrochloride | 2.83 mmol, 305 mg | Cl.C(\C=C\C)N
reactant | triethylamine | 2.83 mmol, 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-Allylamino-2-(trans-2-butenylamino)-6-nitroquinazoline | 138 mg, yield: 80.9% | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])NC\C=C\C | C15H17N5O2
